US07300951B2
5-Chloro-N-[4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide
Borane-THF (1 M, 15 mL, 14.21 mmol) was added dropwise over 30 min at 0° C. to a solution of N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoronorvaline (1.0 g, 2.84 mmol) in THF (10 mL). The reaction was allowed to warm to 25° C. for 18 h and then was quenched by addition of 50 mL of 10% acetic acid in methanol. After solvent evaporation, the crude product was dissolved in EtOAc and washed with 1N HCl, H2O and saturated NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated to produce a crude oil (0.83 g) that was purified via flash chromatography, eluent: 1:6 ethyl acetate-hexane. This produced the title compound 5-chloro-N-[4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide as a colorless oil (0.46 g, 48%). Mass Spectrum (−ESI): 337 (M−H)−.

reactant | Borane THF | 14.21 mmol, 1 M, 15 mL | B.C1CCOC1
reactant | N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoronorvaline | 2.84 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](CCC(F)(F)F)C(=O)O | C9H9ClF3NO4S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-chloro-N-[4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide | 0.46 g, 48% | ClC1=CC=C(S1)S(=O)(=O)NC(CCC(F)(F)F)CO | C9H11ClF3NO3S2
